US04937371
To 17.0 g (0.061 mole) of 2-(4-chlorobutyl)-6,7-dimethoxynaphthalene in 350 mL of methylene chloride cooled at -70° C. under an argon atmosphere was added 122 mL (0.122 mole) of 1M boron tribromide in methylene chloride, dropwise over 30 minutes. The reaction mixture was stirred for 30 minutes at -70° C. and then kept at -20° C. for 17 hours. Workup as in Example 7 gave 2-(4-chlorobutyl)-6,7-dihydroxynaphthalene as a colorless solid (15.3g). This solid, 21.8g (0.18 mole) of benzyl bromide and 25.3g (0.18 mole) of potassium carbonate in 300 mL of acetone was stirred at reflux for 18 hours. Workup as in Example 7 and purification of the crude product by HPLC using 5% ethyl acetate-hexane gave a solid which was recrystallized from ether-hexane, to give 13.0 g (49% yield), mp 54°-59 °, of 2-(4-chlorobutyl)-6,7-bis(phenylmethoxy)-naphthalene.

reactant | 2-(4-chlorobutyl)-6,7-dimethoxynaphthalene | 0.061 mole, 17.0 g | ClCCCCC1=CC2=CC(=C(C=C2C=C1)OC)OC | C16H19ClO2
reactant | boron tribromide | 0.122 mole, 1M, 122 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorobutyl)-6,7-dihydroxynaphthalene | 15.3g, 49% yield | ClCCCCC1=CC2=CC(=C(C=C2C=C1)O)O | C14H15ClO2
